Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Penicillins / ciprofloxacin / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
fall while intoxicated
 
Major Surgical or Invasive Procedure:
___ C6-7 ACDF
___ C5-7 PCF

 
History of Present Illness:
___ female presents with the above fracture s/p
mechanical fall.

Patient per her report drinks "1.5 alcoholic beverages" per 
night with a friend and she
tripped on a threshold and fell to the ground. Positive
headstrike and loss of consciousness. Her recollection of the
event is vague. Patient denies numbness, tingling, weakness,
saddle anesthesia, loss of bowel or bladder function. 

 
Past Medical History:
none
 
Social History:
___
Family History:
NC
 
Physical Exam:
Vitals: afebrile. HR 85; BP 152/80. 
General: 
NAD, A&Ox4
nl resp effort
RRR
  
Sensory:
UE 
       C5         C6           C7        C8           T1
     (lat arm)  (thumb)     (mid fing) (sm finger)  (med arm)
R     SILT       SILT        SILT        SILT         SILT
L     SILT       SILT        SILT        SILT         SILT

T2-L1 (Trunk) 
       SILT

___    
     L2     L3      L4         L5        S1          S2
   (Groin) (Knee) (Med Calf) (Grt Toe) (Sm Toe) (Post Thigh)
R    SILT   SILT    SILT       dec*     ___*       SILT 
L    SILT   SILT    SILT       ___*     ___*       SILT 
*sensory changes are patient's baseline. 

Motor:
UE   Dlt(C5) Bic(C6) WE(C6) Tri(C7) WF(C7) FF(C8)FinAbd(T1)
R      5       5       5      5       5      5     5
L      5       5       5      5       5      5     5

___  Flex(L1) Add(L2) Quad(L3)  TA(L4) ___ ___
R      5       5       5         5      5      5         5      
L      5       5       5         5      5      5         5

Reflexes 
    Bic(C4-5)  BR(C5-6)  Tri(C6-7)  Pat(L3-4)  Ach(L5-S1)
R      2          2         2          2           2
L      2          2         2          2           2
              
___: Negative
Babinski:  Downgoing
Clonus: No beats
Perianal sensation: Normal
Rectal tone: Intact

LABS: deferred

postop

General:  NAD. AAO x3. Lying awake in bed. 
Skin: warm, dry, no rash
CV: RRR, s1 and S2 nl
Pulm: normal effort, lungs are clear
Abd: soft, NT/ND, + BS
Wound: C/D/I. No swelling, redness, or warmth
Extremities: calves are soft, no edema
Neurologic: PERRL. Face symmetrical. Speech clear and fluent.
Tongue ML. EOMs intact. Negative pronator drift. Normal tone and
bulk universally. 
 
Motor Strength:
           Delt   Bi       Tri      BR    WF/WE   HI
Right       5      5        5        5      5     5        
Left        5      5        5        5      5     5
 

           IP    Quad     Ham       TA     Gas   ___
Right       5      5        5        5      5     5        
Left        5      5        5        5      5     5

Sensation: intact to light touch

 
Pertinent Results:
cervical MRI ___. Disruption of anterior longitudinal 
ligament C6-C7 level, disc space 
widening, fracture of the anterior inferior corner C6 vertebral 
body, fracture 
into the disc space.  Prevertebral edema. 
2. Moderate central canal narrowing C6-C7 level, from 
degenerative changes. 
3. Minimally prominent central canal of the cord C7-T2 level, of 
unlikely 
significance in the absence of myelopathy. 
4. Multilevel significant foraminal narrowing. 
5. Mild posterior paraspinal intramuscular edema at C5-C7,, 
likely muscle 
strain. 

 
Brief Hospital Course:
Patient was admitted to Orthopedic Spine Service on ___ and 
underwent the above stated procedure.  Please review dictated 
operative report for details. Patient was extubated without 
incident and was transferred to PACU then floor in stable 
condition.  

 

During the patient's course ___ were used for 
postoperative DVT prophylaxis.  Intravenous antibiotics were 
continued for 24hrs postop per standard protocol. Initial postop 
pain was controlled with oral and IV pain medication. Diet was 
advanced as tolerated. Hospital course was otherwise 
unremarkable. Her drain was removed in routine fashion. OT saw 
patient and cleared for home

 

Now, Day of Discharge, patient is afebrile, VSS, and neuro 
intact with improvement of radiculopathy. Patient tolerated a 
good oral diet and pain was controlled on oral pain medications. 
Patient ambulated independently. Patient's wound is clean, dry 
and intact. Patient noted improvement in radicular pain. Patient 
is set for discharge to home in stable condition.

 
Medications on Admission:
vitamin d
mvi
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 650 mg ___ tablet(s) by mouth three times a 
day Disp #*120 Tablet Refills:*1 
2.  Docusate Sodium 100 mg PO BID  
3.  Multivitamins 1 TAB PO DAILY  
4.  OxyCODONE (Immediate Release) 2.5-10 mg PO Q4H:PRN Pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth ___ Disp #*60 
Tablet Refills:*0 
5.  Senna 8.6 mg PO BID  
6.  Vitamin D 800 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
C6-7 fracture disruption
ETOH abuse
facial laceration
facial abrasion
 
Discharge Condition:
good
 
Discharge Instructions:
ACDF:
 You have undergone the following operation: Anterior Cervical 
Decompression and Fusion.
1.When you are discharged from the hospital and settled at 
home/rehab, if you do not have an appointment, please call to 
schedule two appointments: 
1.a wound check visit for 8 -14 days after surgery
2.a post-operative visit with your surgeon for ___ weeks after 
surgery. 
1.You can reach the office at ___ and ask to speak 
with staff to schedule or confirm your appointments.  

Wound Care
•If not already done in the hospital, remove the incision 
dressing on day 2 after surgery.  Keep the incision dry for the 
first two days after surgery.  
•There will often be small white strips of tape over the 
incision (steri-strips).  These should be left alone and may get 
wet in the shower on day 3.  
•Starting on the third day, you should be washing your incision 
DAILY.  While holding the head and neck still, gently clean the 
incision and surrounding area with mild soap and water, rinse 
and then pat dry. 
•Do not put any lotion, ointments, alcohol, or peroxide on the 
incision.
•If you have a multi-level fusion and require a hard cervical 
collar, this may be removed for showering, and often sleeping 
and eating.  The collar will typically be removed at the week 4 
visit.
•You may remove the compression stockings when you leave the 
hospital

 

 
•Have someone look at the incision daily for 2 weeks.  Call the 
surgeon’s office if you  notice any of the following: 
___  redness along the length of the incision    
___  swelling of the area around your incision     
___ from the incision             
___ of your extremities greater than before surgery  
  
___ of bowel or bladder control                          
     
___ of severe headache  
___ swelling or calf tenderness                           
                                                                 
                                     
___ above 101.5

•At your wound check visit, the Nurse Practitioner or ___ 
___, will check your wound and remove any sutures or 
staples or steri-strips. 
•Do not soak or immerse your incision in water for 1 month.  For 
example, no tub baths, swimming pools or jacuzzi.

 

Medications
• You will be given prescriptions for pain medications and stool 
softeners upon discharge from the hospital.
•Pain medications should be taken as prescribed by your surgeon 
or nurse practitioner/ physician ___. You are allowed to 
gradually reduce the number of pills you take when the pain 
begins to subside. 
•If you are taking more than the recommended dose, please 
contact the office to discuss this with a practitioner ___ 
medication may need to be increased or changed).

  
•Constipation: Pain medications (narcotics) may cause 
constipation (difficulty having a bowel movement).  It is 
important to be aware of your bowel habits so you ___ develop 
severe constipation. Call the office if this occurs for more 
than 3 days or if you have stomach pain.

  
•Most prescription pain medications cannot be called into the 
pharmacy for renewal. 

      The following are 2 options you may explore to obtain a 
renewal of your narcotic medications:
1.Call the office ___ days before your prescription runs out and 
speak with our office staff about mailing a prescription to your 
home/pharmacy.  (Prescriptions will not be sent by Fed Ex/UPS)  
2.Call the office 24 hours in advance and speak with office 
staff about coming into the office to pick up a prescription.

  
•If you continue to require medications, you may be referred to 
a pain management specialist or your medical doctor for ongoing 
management of your pain medications.  

  
•Avoid NSAIDS for 12 weeks post-operative. These medications 
include, but are not limited to the following:
•Non-Steroidal Anti-Inflammatory Agents: Advil, Aleve, Cataflam, 
Clinoril, Diclofenac, Dolobid, Feldene, Ibuprofen, Indocin, 
Medipren, Motrin, Nalfon, Naprosyn, Nuprin, Relafen, Rufen, 
Tolectin, Toradol, Trilisate, Voltarin

 

Activity Guidelines
•If you have a multi-level cervical fusion, you will be asked to 
wear a hard cervical collar.  This is typically removed at week 
4 after surgery.  You may not drive while wearing the collar.
•You may remove your cervical collar for eating, sleeping, and 
when showering.
•Avoid strenuous activity, bending, pushing, or reaching 
overhead.  For example, you should not vacuum, do large loads of 
laundry, walk the dog, wash the car, etc. until your follow-up 
visit with your surgeon.
•Avoid heavy lifting.  Do not lift anything over ___ pounds for 
the first few weeks that you are home from the hospital.
•Increase your activities a little each day.  Walking is a form 
of exercise.  Exercise should not cause pain.  Limit yourself to 
things that you can do comfortably and plan rest periods 
throughout the day.
•You are not unless you are not taking narcotic medication and 
are not required to wear a collar. You may ride in a car for 
short distances and avoid sitting in one position for too long.  

•You may resume sexual activity ___ weeks after surgery, 
avoiding stress on the neck and shoulders.  

 

Physical Therapy
•Outpatient Physical Therapy (if appropriate) will not begin 
until after your post-operative visit with your surgeon. A 
prescription is needed for formal outpatient therapy. 
•You may be given simple stretching exercises or a prescription 
for formal outpatient physical therapy, based on what your needs 
are after surgery.

  

Blood Clots in the Leg 
1.It is not uncommon for patients who recently had surgery to 
develop blood clots in leg veins. 
•Symptoms include low-grade fever, and/or redness, swelling, 
tenderness, and/or an    aching/cramping pain in your calf. 
•You should call your doctor immediately if you have these 
symptoms. 
•To prevent blood clots in legs, try walking and/or pumping 
ankles several times during the day. 
•If the blood clot breaks free from the leg vein, it can travel 
to the lungs and cause severe breathing difficulty and/or chest 
pain. If you experience this, call ___ immediately.

  

Questions
•Any questions may be directed to your surgeon or nurse 
practitioner/ physician ___.  
1.During normal business hours (8:30am- 5:00pm), you can call 
our office directly at ___.  If no one picks up, 
please leave a message and someone will get back to you.  
•If you are calling with  an urgent medical issue, please go to 
nearest emergency room (i.e. pain unrelieved with medications, 
wound breakdown/infection, or new neurological symptoms).

 

Rigid Collar Instructions

 
•How to put collar on:

   ___ collar is labeled front and back with arrows 
indicating top and bottom.
___ the back section on your neck first.  Apply the 
front section placing your chin in the chin rest.
___ securing the Velcro, make sure the front overlaps 
the back section.  This allows more Velcro to be exposed giving 
the collar a more secure fit.
___ the collar as tight as you can while remaining 
comfortable.  The tighter it is worn, the more immobilization of 
your spine is obtained and the less likely you will move your 
neck.

  

•Care for/during use:

   ___ alert to pressures under your chin.  Some pressure 
is necessary but do not allow a blister or pressure sore to 
develop.
___ provide comfort, you should wear the collar liners 
provided between the brace and your chin to absorb perspiration 
and lessen irritation. We recommend that these liners be hand 
washed.  
___ collar can be washed with mild soap and water, then 
dried with a towel and/or hair dryer on the lowest setting.  
Hand washing is recommended.

 
Followup Instructions:
___